datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CCCCCC.[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CCCCCC)CCCCCC 21=20;20,10=10"
"[NH:10]([H])C(CC)C(O)C(C)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(C)C(O)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)C)C1=CC=CC=C1)CC>>CN([C:20]1(OC(C(C([O:21]1)C)C)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])C(O)C([H])C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C([H])C(O)C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C)[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(CC)[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"[O:10]([K])C([H])/C([H])=C([C:20](OCC)=[O:21])/[H]>>[O-:21][C:20]1(OCC)[O+:10]([K])C([H])C([H])=C1[H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CC)C1=CC=CC=C1>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)[H])[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)[H])C 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)C)C)C1=CC=CC=C1)[O-:10])[H]>>CCN([C:20](=[O:10])OC(C(C([O-:21])C)C)C1=CC=CC=C1)[H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)C)[H]>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)C)[O-:10])[H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O:10]([Na])C(C)C(C)C([C:20](OCC)=[O:21])C>>[O-:21][C:20]1(OCC)[O+:10]([Na])C(C)C(C)C1C 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C)CC)[H].[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CC)[H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C1=CC=CC=C1)[H]>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C([H])[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[OH:21][C:20]1([H])C([H])C(C)=C([H])C(CC)[OH+:10]1>>[OH:10]C(CC)/C([H])=C(C)\C([H])[C:20]([H])=[OH+:21] 21=20;20,10=10"
"[H][S:10]C(CC)C([H])C(C)[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C)[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C(C)C(CC)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(CC)[O]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[O]C([H])C(CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CC)C)[H])[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)C)[H])[H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
